US07417157B2
14.1 g (41.3 mmol) of methoxymethyltriphenylphosphonium chloride are initially introduced in 250 ml of THF, and a solution of 4.6 g (41.0 mmol) of potassium tert-butoxide in 100 ml of THF is added at 0° C. After 30 min at this temperature, (±)-4-((3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-yl)cyclohexanone as a solution in 150 ml of THF is added, and the batch is stirred at room temperature for 17 h. The mixture is treated with water at 0° C. and acidified using 2 N hydrochloric acid. The batch is extracted with MTBE, and the combined extracts are washed with sat. sodium chloride solution. The solution is dried using sodium sulfate and concentrated to dryness. Purification of the crude product by column chromatography (SiO2, toluene:ethyl acetate=95:5) gives (±)-(3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-3-(4-methoxymethylene-cyclohexyl)-1,2,3,4,4a,9b-hexahydrodibenzofuran as colourless solid.

reactant | methoxymethyltriphenylphosphonium chloride | 41.3 mmol, 14.1 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 41.0 mmol, 4.6 g | CC(C)([O-])C.[K+]
reactant | (±)-4-((3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-yl)cyclohexanone | C(C)OC1=C(C2=C([C@H]3[C@H](O2)C[C@@H](CC3)C3CCC(CC3)=O)C=C1)F | C20H25FO3
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (±)-(3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-3-(4-methoxymethylene-cyclohexyl)-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C([C@H]3[C@H](O2)C[C@@H](CC3)C3CCC(CC3)=COC)C=C1)F | C22H29FO3
